US08957068B2
Step 3: Preparation of 4,4,5,5-tetramethyloxazolidin-2-one
To tert-butyl 3-hydroxy-2,3-dimethylbutan-2-ylcarbamate (10.02 g, 46.1 mmol) in THF (300 ml) was added portion wise potassium 2-methylpropan-2-olate (7.24 g, 64.6 mmol). The reaction was stirred for five hours and quenched with HCl (1 M, 66 mL) to pH=2. The reaction mixture was then concentrated under vacuum to about one third of the volume, and diluted with water (50 mL). The aqueous layer was then extracted with DCM (3×100 mL). The combined organic was washed with brine (50 mL), dried (Na2SO4) and concentrated to give crude product as a light tan oil (6.25 g). LCMS m/z 144.1 (M+H)+, Rt 0.42 min.

reactant | tert-butyl 3-hydroxy-2,3-dimethylbutan-2-ylcarbamate | 46.1 mmol, 10.02 g | OC(C(C)(C)NC(OC(C)(C)C)=O)(C)C | C11H23NO3
reactant | potassium 2-methylpropan-2-olate | 64.6 mmol, 7.24 g | CC(C)(C)[O-].[K+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4,4,5,5-tetramethyloxazolidin-2-one | 6.25 g | CC1(NC(OC1(C)C)=O)C | C7H13NO2
